### ISSUE TITLE
No goals after finishing subgoal

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#6594]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The following code snippet shows `No Goals` on the empty line, at any indentation level.

```lean
example : True ∧ True := by
  constructor
  · trivial

--^ the tactic state shows "No goals" anywhere on this line and the previous line
  trivial
```

It should show the same goal state as the following examples
```lean
example : True ∧ True := by
  constructor
  · trivial

--^ correct goal state

example : True ∧ True := by
  constructor
  · trivial
  trivial
--^ correct goal state

```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
